US08232294B2
Step 5) 1-(3-(4-(4-(2,3-dimethyl-5-oxo-1-phenyl-2,5-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)propyl)cyclopropyl 2-aminoacetate hydrochloride
To the mixture of 1-(3-(4-(4-(2,3-dimethyl-5-oxo-1-phenyl-2,5-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)propyl)cyclopropyl 2-(tert-but-oxycarbonylamino)acetate (160 mg, 0.216 mmol) in 8 mL of ethyl acetate was added a solution of HCl/EtOAc (0.93 mol/L, 5 mL) dropwise. The reaction mixture was stirred at rt for 30 minutes and then filtered. The solid was washed with ethyl acetate (10 mL×2) to afford the title compound as a white solid (55 mg, 37.9%).

reactant | 1-(3-(4-(4-(2,3-dimethyl-5-oxo-1-phenyl-2,5-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)propyl)cyclopropyl 2-(tert-but-oxycarbonylamino)acetate | 0.216 mmol, 160 mg | C(C)(C)(C)OC(=O)NCC(=O)OC1(CC1)CCCOC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C1=C(N(N(C1=O)C1=CC=CC=C1)C)C)F | C40H42FN5O8
reactant | HCl EtOAc | 0.93 mol/L, 5 mL | Cl.CCOC(=O)C
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
product | 1-(3-(4-(4-(2,3-dimethyl-5-oxo-1-phenyl-2,5-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)propyl)cyclopropyl 2-aminoacetate hydrochloride | 55 mg, 37.9% | Cl.NCC(=O)OC1(CC1)CCCOC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C1=C(N(N(C1=O)C1=CC=CC=C1)C)C)F | InChI=1S/C35H34FN5O6.ClH/c1-22-32(34(44)41(40(22)2)24-7-4-3-5-8-24)33(43)39-23-9-12-30(27(36)19-23)46-29-13-17-38-28-20-25(10-11-26(28)29)45-18-6-14-35(15-16-35)47-31(42)21-37;/h3-5,7-13,17,19-20H,6,14-16,18,21,37H2,1-2H3,(H,39,43);1H
